US06921825B2
A suspension of 4-acetylaminobenzene sulfonyl chloride (4.5 mmol) in anhydrous CH2Cl2 at room temperature is treated with 1-methyl piperazine (4.5 mmol) and triethylamine (4.5 mmol). The reaction mixture was stirred at room temperature for 1 hour, water was added, and the product extracted with additional CH2Cl2. The combined organic extracts were dried (Na2SO4), filtered, and evaporated under reduced pressure, affording the desired N-[4-(4-methylpiperazine-1-sulfonyl)phenyl]acetamide. Mp: 184° C.; Yield 41%; 1H NMR (DMSO d8): δ 2.09 (s, 3H), 2.15 (s, 3H), 2.40 (m, 4H), 2.85 (m, 4H), 7.63-7.68 (d,2H, J=10 Hz), 7.80-7.84 (d, 2H, J=8 Hz), 10.41 (s, 1H).

reactant | 4-acetylaminobenzene sulfonyl chloride | 4.5 mmol | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | 1-methyl piperazine | 4.5 mmol | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 4.5 mmol | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[4-(4-methylpiperazine-1-sulfonyl)phenyl]acetamide | Yield 41% | CN1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C13H19N3O3S
